US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl 4-({2-[4-(2-methylpropyl)phenyl]propanoyl}oxy)butanoate was prepared from tetrahydropyran-4-one oxime and bis 4-({2-[4-(2methylpropyl)phenyl]propanoyl}oxy)butanoate)iodobenzene (synthesized from 4-({2-[4-(2-methylpropyl)phenyl]propanoyl}oxy)butanoic acid and iodobenzene diacetate) and using conditions of General Method 4. 1H NMR (250 MHz, CHLOROFORM-d) δ 7.16-7.25 (2H, m), 7.03-7.14 (2H, m), 4.15 (2H, dt, 12.3, 6.2 Hz), 3.98-4.09 (2H, m), 3.59-3.79 (3H, m), 2.40-2.53 (4H, m), 2.27-2.37 (1H, m), 2.11-2.28 (1H, m), 1.74-2.07 (5H, m), 1.50 (3H, dd, 7.2, 4.3 Hz), 0.90 (6H, d, 6.2 Hz).

reactant | tetrahydropyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | 4-({2-[4-(2methylpropyl)phenyl]propanoyl}oxy)butanoate | CC(CC1=CC=C(C=C1)C(C(=O)OCCCC(=O)[O-])C)C
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 4-Nitrosotetrahydro-2H-pyran-4-yl 4-({2-[4-(2-methylpropyl)phenyl]propanoyl}oxy)butanoate | CC(CC1=CC=C(C=C1)C(C(=O)OCCCC(=O)OC1(CCOCC1)N=O)C)C | C22H31NO6
